US06800629B2
In 15 mL of acetonitrile was dissolved 0.3 g of 3-amino-2-pyrazinecarbonitrile. While cooling the solution with ice, 10% fluorine gas (a fluorine gas diluted with nitrogen gas) was introduced into the solution at a rate of 45 mL per minute for a period of 20 minutes. Then, while elevating the temperature from the ice-cooled temperature to room temperature, nitrogen gas was introduced for one hour. The reaction mixture was concentrated under reduced pressure, and the oily product thus obtained was purified by silica gel column chromatography [eluent: n-hexane:ethyl acetate=3:1] to obtain 0.01 g of 3-amino-6-fluoro-2-pyrazinecarbonitrile as a yellow-colored solid product.

reactant | 3-amino-2-pyrazinecarbonitrile | 0.3 g | NC=1C(=NC=CN1)C#N | C5H4N4
reactant | fluorine | FF | F2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-amino-6-fluoro-2-pyrazinecarbonitrile | 0.01 g | NC=1C(=NC(=CN1)F)C#N | C5H3FN4
